US07592477B2
A mixture of 4-bromobenzoic acid (100 g, 0.5 mol), trifluoromethane sulphonic acid (2.6 mL, 0.03 mol) and isobutylene (1.5 L) in dichloromethane (1.5 L) was stirred at RT in a closed autoclave for 5 days. The organic layer was washed with an aqueous solution of NaHCO3 (10%), water, brine, dried and concentrated to give tert-butyl-4-bromobenzoate (90 g, 71%).

reactant | 4-bromobenzoic acid | 0.5 mol, 100 g | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | trifluoromethane sulphonic acid | 0.03 mol, 2.6 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | isobutylene | 1.5 L | CC(C)=C | C4H8
solvent | dichloromethane | 1.5 L | ClCCl | CH2Cl2
product | tert-butyl-4-bromobenzoate | 90 g, 71% | C(C)(C)(C)OC(C1=CC=C(C=C1)Br)=O | C11H13BrO2
